US04857513
To a solution of 2-benzo[b]thiophenecarbonyl chloride prepared from 2-benzo[b]thiophenecarboxylic acid (356 mg) and oxalyl chloride (0.35 ml) in methylene chloride (2 ml) was added dropwise a mixture of tetraethyl (aminomethylene)bis(phosphonate) (606 mg), pyridine (316 mg) and trace amounts of 4-(dimethylamino)pyridine in methylene chloride (8 ml) at 5° C. The mixture was stirred for 2 hours at ambient temperature followed by the addition of ethyl acetate. The mixture was washed with water, 1N hydrochloric acid, saturated aqueous solution of sodium bicarbonate and brine successively. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was treated with diisopropyl ether to give tetraethyl [(2-benzo[b]thiophenecarboxamido)methylene]bis(phosphonate) (790 mg) as a white powder which was recrystallized from a mixture of ethyl acetate and n-hexane.

reactant | 2-benzo[b]thiophenecarbonyl chloride | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
reactant | 2-benzo[b]thiophenecarboxylic acid | 356 mg | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | oxalyl chloride | 0.35 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetraethyl (aminomethylene)bis(phosphonate) | 606 mg | NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H23NO6P2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 316 mg | N1=CC=CC=C1 | C5H5N
product | tetraethyl [(2-benzo[b]thiophenecarboxamido)methylene]bis(phosphonate) | 790 mg | S1C2=C(C=C1C(=O)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=CC=C2 | C18H27NO7P2S
